US06143772
5.1. 2-Phenylmethyl-5-nitrobenzofuran
40 g (81 mmol) of (2-hydroxy-5-nitrophenyl)-methyltriphenylphosphonium bromide and 21.4 g (162 mmol) of phenylacetyl chloride are treated under the conditions described in step 1 of Example 1. 12 g of product are obtained. Melting point: 100° C.

reactant | (2-hydroxy-5-nitrophenyl)-methyltriphenylphosphonium bromide | 81 mmol, 40 g | [Br-].OC1=C(C=C(C=C1)[N+](=O)[O-])C1=C(C=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C
reactant | phenylacetyl chloride | 162 mmol, 21.4 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 2-Phenylmethyl-5-nitrobenzofuran | 12 g | C1(=CC=CC=C1)CC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C15H11NO3
